data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_85588_1,[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:5]([O:8][H:12])([O:9][H:10])[H:13])(=[O:6])[O:7][H:11]>>[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:5](=[O:9])[H:13])([O:6][H:10])([O:7][H:11])[O:8][H:12],45.36448499999963
MR_209387_0,[C:1]1([N:4]([H:12])[H:13])([H:11])[C:2]([C:3]([O:5][H:9])=[O:8])([O:6][H:10])[O:7]1>>[C:1](\[C:2]1([O:6][H:10])[C:3]([O:5][H:9])([O:8][H:13])[O:7]1)(=[N:4]/[H:12])[H:11],22.22103000000501
MR_608099_1,[C:1]([C:3]([N:2]([N:4]([H:9])[H:10])/[N:7]=[C:6](/[N:5]([H:11])[H:12])[H:13])=[O:8])([H:14])([H:15])[H:16]>>[C:1]([C:3]([C@:6]([N:5]([H:11])[H:12])([N:7][N:2][N:4]([H:9])[H:10])[H:13])=[O:8])([H:14])([H:15])[H:16],67.25733249997717
MR_578358_0,[C:1]([C:2]([C:4]([H:14])([H:15])[H:16])([O:7][H:11])[O:8][H:10])([C:3]([O:5][H:9])([H:12])[H:13])=[O:6]>>[C:1]1([C:2]([C:4]([H:14])([H:15])[H:16])([O:7][H:11])[O:8][H:10])([O:6][H:9])[C:3]([H:12])([H:13])[O:5]1,58.57084999997184
MR_11499_0,[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:4]([O:6][H:7])=[C:5]([H:9])[N:3]1[H:8]>>[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:4]1(/[C:5](=[N:3]/[H:8])[H:9])[O:6][H:7],59.9130725000073
MR_398659_0,[C:1](/[C:2]([N:4]=[O:6])=[N:5]/[H:8])([C:3](=[O:7])[H:9])([H:10])[H:11]>>[C:1]1([H:10])([H:11])/[C:2](=[N:5]/[H:8])[C:3]1([O:7][N:4]=[O:6])[H:9],58.23200000000696
MR_29585_1,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])(/[C:4]([N:5]([H:10])[H:11])=[C:7](/[N:6]([H:12])[H:13])[H:14])[O:8][H:9]>>[C:1]1([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])[C@@:4]([N:5]([H:10])[H:11])([O:8][H:9])[C@@:7]1([N:6]([H:12])[H:13])[H:14],46.35781749998856
MR_290791_2,[C:1]([N:2]([N:4]([H:10])[H:11])[H:7])(/[N:6]=[N:5]/[N:3]([H:8])[H:9])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:2]([N:4]([H:10])[H:11])[N:6]1[N:5]([N:3]([H:8])[H:9])[H:7],58.75972749999434
MR_310791_0,[C:1](/[C:5]([N:4]([C:7](=[C:6]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])[H:11])[H:9])=[N:8]\[H:10])([H:12])([H:13])[H:14]>>[C:1](/[C:5]([C:6]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])/[C:7](=[N:4]/[H:9])[H:11])=[N:8]\[H:10])([H:12])([H:13])[H:14],68.98985999999027
MR_247947_0,[C@@:1]([C@@:2]([C:4]([H:14])([H:15])[H:16])([N:6]=[O:7])[H:10])([C:3]([H:11])([H:12])[H:13])([O:5][H:8])[H:9]>>[C@:1]([C@:2]([C:4]([H:14])([H:15])[H:16])([O:5][H:8])[H:10])([C:3]([H:11])([H:12])[H:13])([N:6][O:7])[H:9],72.56284499999367
MR_175932_1,[C:1]12([H:9])[N:4]([H:8])[C:2]([H:10])([H:11])[C:5]1([O:7][C:3]([H:12])([H:13])[H:14])[C:6]2([H:15])[H:16]>>[C:1]1([C:5](=[C:6]([H:15])[H:16])[O:7][C:3]([H:12])([H:13])[H:14])([H:9])[C:2]([H:10])([H:11])[N:4]1[H:8],48.50010250000153
MR_431531_1,[C:1]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:7])([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:6](=[O:8])[H:13]>>[C:1](\[C:3]([C:2]([H:14])([H:15])[H:16])([C:6](=[O:8])[H:13])[O:7][H:11])([N:4]([H:9])[H:10])=[N:5]/[H:12],26.385747500012545
MR_648478_0,[C@@:1]1([O:5][H:8])([H:9])[C:2]([H:10])([H:11])[N:6]=[C:3]1[O:4][H:7]>>[C:1](=[C:3](\[O:4][H:7])[N:6][C:2]([H:10])[H:11])(\[O:5][H:8])[H:9],26.974969999987337
MR_556662_1,[C:1]([C:2]([N:4]([H:12])[H:13])=[O:9])(/[C:3](=[C:7](\[N:6]([H:16])[H:17])[H:18])[O:8][H:10])([N:5]([H:14])[H:15])[H:11]>>[C:1](=[C:3](\[C:7]([C:2]([N:4]([H:12])[H:13])=[O:9])([N:6]([H:16])[H:17])[H:18])[O:8][H:10])(\[N:5]([H:14])[H:15])[H:11],61.96562499999715
MR_583267_1,[C:1]([C:2]([C:4](=[O:7])[H:11])[N:5][H:10])([N:3]([H:8])[H:9])=[O:6]>>[C:1]([N:3]([H:8])[H:9])([C:4](/[C:2](=[N:5]\[H:10])[H:11])=[O:7])=[O:6],61.28541500000239
MR_181235_0,[C@:1]([C:3]([H:16])([H:17])[H:18])([O:6][N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([O:7][H:10])=[O:9])([O:8][H:11])[H:12]>>[C@:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[O:6][C:5]([O:7][H:10])=[O:9])([O:8][H:11])[H:12],69.23458500005012
MR_484869_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3]([N:4]([H:8])[H:9])=[C:5](/[O:6][H:7])[H:10])([H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:5](=[C:3](\[N:4]([H:8])[H:9])[O:6][H:7])[H:10])([H:11])[H:12],68.62277249998968
MR_287272_1,[C:1]([C:3]([C:2](/[C:4](=[N:6]\[H:8])[H:9])=[O:7])=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:2]1([H:9])/[C:4](=[N:6]/[H:8])[O:7]1)=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12],68.4439349999775
MR_277575_2,[C:1]1([N:5]([H:10])[H:11])([H:9])[C:4]([C:2]([C:3]([H:15])([H:16])[H:17])([H:12])[H:13])([C:6](=[C:7]([H:18])[H:19])[H:14])[O:8]1>>[C:1]([C:4]([C:2]([C:3]([H:15])([H:16])[H:17])([H:12])[H:13])=[O:8])([N:5]([H:10])[H:11])([C:6](=[C:7]([H:18])[H:19])[H:14])[H:9],43.09481749998724
MR_460610_1,[C:1](/[C:3](=[C:2]([C:4](/[N:6]([H:12])[H:13])=[N:8]\[H:14])\[N:5]([H:10])[H:11])[O:7][H:9])([H:15])([H:16])[H:17]>>[C:1]([C:3]1([O:7][H:9])[C:2]([N:5]([H:10])[H:11])=[C:4]([N:6]([H:12])[H:13])[N:8]1[H:14])([H:15])([H:16])[H:17],50.35436500002831
